US07759337B2
Step, 1: 2-(6-chlorophthalazin-1-yl)-tetrahydropyrrolo[1,2-a]pyrazin-6(1H,2H,7H)-one
A mixture of tetrahydropyrrolo[1,2-a]pyrazin-6(1H,2H,7H)-one (Med. Chem. Res., 7:301 (1997); 0.983 g, 7.01 mmol), 1,6-dichlorophthalazine (1.36 g, 6.83 mmol) and TEA (2.00 mL, 14.3 mmol) in 18 mL of CH3CN was heated at 135° C. for 30 min in a microwave oven. The reaction mixture was concentrated onto silica gel and purified using flash chromatography eluting with 2M NH3 in MeOH:CH2Cl2 (0:1→3:97) to give 404 mg (20%) an orange foam/amorphous solid. MS m/z: 303.1 [M+1].

reactant | tetrahydropyrrolo[1,2-a]pyrazin-6(1H,2H,7H)-one | 7.01 mmol, 0.983 g | C1C2N(CCN1)C(CC2)=O | C7H12N2O
reactant | 1,6-dichlorophthalazine | 6.83 mmol, 1.36 g | ClC1=NN=CC2=CC(=CC=C12)Cl | C8H4Cl2N2
solvent | CH3CN | 18 mL | CC#N | C2H3N
product | 2-(6-chlorophthalazin-1-yl)-tetrahydropyrrolo[1,2-a]pyrazin-6(1H,2H,7H)-one | 404 mg, 20% | ClC=1C=C2C=NN=C(C2=CC1)N1CC2N(CC1)C(CC2)=O | C15H15ClN4O
